US04331666
7-amino-3-[(8-aminocarbonyl-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-3-cephem-4-carboxylic acid
To a hot solution (50°-55° C.) of 6-mercapto-8-aminocarbonyl-tetrazolo[1,5-b]pyridazine (2 g; 0.010 mole) and 2.8 g of sodium bicarbonate in 90 ml of buffer phosphate (pH 6.4), 7-ACA (4.6 g; 0.017 mole) was added portionwise and the mixture was heated at 60° C. for 4 hours. After cooling at 10° C. the precipitated 7-amino-3-[(8-aminocarbonyl-6-tetrazolo[1,5-b]pyridazinyl-thiomethyl]-3-cephem-4-carboxylic acid was collected by filtration. The solid was suspended in 150 ml of Me2CO:H2O (1:2), stirred for 30 minutes and filtered again. The collected precipitate was washed with Me2CO and dried under vacuum at 60° C. to give the title compound (80%), m.p. 228°-230° C. (dec.).

reactant | 6-mercapto-8-aminocarbonyl-tetrazolo[1,5-b]pyridazine | 0.010 mole, 2 g | SC=1C=C(C=2N(N1)N=NN2)C(=O)N | C5H4N6OS
reactant | sodium bicarbonate | 2.8 g | C([O-])(O)=O.[Na+]
reactant | 7-ACA | 0.017 mole, 4.6 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
solvent | phosphate | 90 ml, pH 6.4 | P(=O)([O-])([O-])[O-]
product | 7-amino-3-[(8-aminocarbonyl-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-3-cephem-4-carboxylic acid | 80% | NC1[C@@H]2N(C(=C(CS2)CSC=2C=C(C=3N(N2)N=NN3)C(=O)N)C(=O)O)C1=O | C13H12N8O4S2
